US07230011B2
5-Benzyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of potassium hydroxide (22 g, 392 mmol) in methanol (160 mL) was added 5-benzyloxyindole (24.7 g, 111 mmol) followed by 1-methyl-4-piperidone (17.7 mL, 144 mmol) and methanol (80 mL). The reaction mixture was stirred at reflux for 18 h, cooled to ambient temperature and filtered. The precipitate was washed with methanol and dried under vacuum to give 31.7 g (90%) of the title compound: mp=197-199° C. dec; MS(m/e): 318 (M+). Calculated for C21H22N2O: C, 79.21; H, 6.96; N, 8.80. Found: C, 79.24; H, 6.99; N, 8.85.

reactant | potassium hydroxide | 392 mmol, 22 g | [OH-].[K+]
reactant | 5-benzyloxyindole | 111 mmol, 24.7 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 1-methyl-4-piperidone | 144 mmol, 17.7 mL | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 160 mL | CO | CH4O
solvent | methanol | 80 mL | CO | CH4O
product | 5-Benzyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 31.7 g, 90% | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C21H22N2O
